US08669271B2
4-[5-(4-Cyano-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
Trifluoroacetic anhydride (50 mL) is added to a mixture of 4-[5-(4-carbamoyl-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (50 mg) and triethylamine (100 mL) in dichloromethane (3 mL) and the reaction mixture is stirred at room temperature for 1 h. Aqueous NaHCO3 solution is added and the mixture is extracted with dichloromethane. The combined extracts are washed with brine, dried over MgSO4, and concentrated in vacuo. The residue is triturated with diethyl ether, stirred for 1 h, filtered off, and dried to give the title compound. LC (method 7): tR=1.47 min; Mass spectrum (ESI+): m/z=424 [M+H]+.

reactant | Trifluoroacetic anhydride | 50 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-[5-(4-carbamoyl-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=C(C=C(C=C2)C(N)=O)F)O1 | C24H28FN3O4
reactant | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-[5-(4-Cyano-2-fluoro-phenyl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=C(C=C(C=C2)C#N)F)O1 | C24H26FN3O3
